US07960584B2
Step 1: (4-amino-2,5-difluorobenzyl)carbamic acid t-butyl ester
A dried 50 ml two-neck round bottom flask was filled with argon gas. The solution of 4-amino-2,5-difluorobenzonitrile (0.5 g, 3.24 mmol) in tetrahydrofuran was put into the flask and cooled to 0° C. To the solution was added Borane-THF complex (2 eq, 6.49 mmol, 6.49 ml) slowly. The temperature of the mixture was raised and heated to reflux for 18 hours. After confirming the completion of the reaction with TLC, to the solution was added methanol slowly (generation of bubbles) and stirred for 2 hours. The methanol was removed under reduced pressure and the residue was extracted with ethylacetate. The ethylacetate layer was washed with water, dried over MgSO4, filtered, and concentrated under reduced pressure to yield yellow syrup. The above obtained liquid was dissolved in tetrahydrofuran and added BOC2O (1.0 eq, 0.71 g) slowly and stirred for 12 hours at room temperature. After confirming the completion of the reaction with TLC, the reaction solution was extracted with ethylacetate, washed with water and brine, dried over MgSO4, filtered and concentrated under reduced pressure. The obtained liquid was purified with column chromatography (n-hexane/ethyl acetate=4/1) to yield a white solid (0.43 g, 51.2%).

reactant | 4-amino-2,5-difluorobenzonitrile | 3.24 mmol, 0.5 g | NC1=CC(=C(C#N)C=C1F)F | C7H4F2N2
reactant | methanol | CO | CH4O
reactant | BOC2O | 0.71 g, 1.0 eq | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (4-amino-2,5-difluorobenzyl)carbamic acid t-butyl ester | 0.43 g, 51.2% | C(C)(C)(C)OC(NCC1=C(C=C(C(=C1)F)N)F)=O | C12H16F2N2O2
